US04898871
The procedure is as in Example 7, but starting with 4-acetylaminobutanol (6 g) in anhydrous tetrahydrofuran (250 cc), an oily suspension (50% by weight; 2.3 g) of sodium hydride and 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (10 g). The product obtained is purified by chromatography on neutral alumina (40 g) contained in a column 1.5 cm in diameter, and eluting with methylene chloride and collecting 10-cc fractions. Fractions 3 to 50 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C., and the residue obtained is crystallized by stirring into 2-propanol. 3-(4-Acetylaminobutoxy)-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (0.8 g), m.p. 120° C., is thereby obtained.

reactant | 4-acetylaminobutanol | 6 g | C(C)(=O)NCCCCO | C6H13NO2
reactant | sodium hydride | 2.3 g | [H-].[Na+]
reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 10 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
solvent | tetrahydrofuran | 250 cc | O1CCCC1 | C4H8O
product | 3-(4-Acetylaminobutoxy)-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 0.8 g | C(C)(=O)NCCCCOC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C22H21ClN4O3
